Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([N:2]=[C:3]=[N:4][H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:12]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],62.5372707162197
[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:10])([H:11])[O:4][C:5]([H:9])([H:12])[N:6]1[H:13])[H:7],80.6728993169622
[C:1]([H:8])([H:9])([H:10])[H:17].[O:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6](=[O:7])[H:18])([H:15])[H:16])[H:11])[H:19]>>[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],81.55624531699239
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11]>>[C:1]1([H:7])([H:8])[C@@:3]2([H:11])[C:2]([H:9])([H:10])[N:4]2[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15],85.67214972879151
[N:1]([N:5]=[C:4]([N+:3]#[C:2][H:7])[H:8])[H:6]>>[n:1]1([H:6])[c:2]([H:7])[n:3][c:4]([H:8])[n:5]1,28.925208262083004
[C:1]1([H:8])([H:9])[C@@:2]2([H:11])[C:3]([H:12])([H:13])[C@@:4]3([O:5][H:14])[C@:6]1([H:16])[C@@:7]23[H:17].[H:10][H:15]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],95.59528117373651
[C:1]([C:2](=[C:3]([H:13])[H:14])[C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:8])([H:9])[H:10].[H:11][H:12]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])[H:11])([H:8])([H:9])[H:10],79.9494536148857
[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9]>>[C-:4]#[C:5][C+:6]=[N:7][H:8].[N:1](=[C:2]=[O:3])[H:9],71.60703264492349
[C:4](=[O:5])([O+:7]=[C-:6][H:10])[H:9].[N:1](=[C:2]=[O:3])[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],11.303078949125414
[C:1]([C:2]([C:3](=[C:5]([C:6]([H:18])([H:19])[H:20])[C:7]([H:21])([H:22])[H:23])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])([H:16])[H:17]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],79.3019000319067
[C:1]([O:2][C:3](=[C:4]=[O:5])[H:11])([H:8])([H:9])[H:10].[O:6]([C:7]([H:13])([H:14])[H:15])[H:12]>>[C:1]([O:2][C:3]([C:4](=[O:5])[O:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],23.378430630374204
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:8])[H:9])[H:7]>>[O:1]1[C:2]([H:8])([H:9])[C@:3]([O:4][H:11])([H:10])[C:5]1=[C:6]([H:7])[H:12],69.988733902381
[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8]>>[C+:1](=[C:2]=[C-:3]/[C:4](=[C:5](\[C:6](=[O:7])[H:11])[H:10])[H:9])[H:8],71.1534828219426
[C:1]([C:2](/[C:3](=[C:5](\[C:6]#[N:7])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]([H:14])[H:15]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],43.423459112962135
[O:1]=[C:2](/[C:3](=[C:4](/[C:5][H:10])[H:8])[H:9])[C:6]#[N:7]>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],9.151311873046915
[O:1]([C:2]1([C:5]#[C:6][H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]([C:5]1=[C:6]([H:12])[C:2]12[C:3]([H:8])([H:9])[C:4]2([H:10])[H:11])[H:7],77.37651614810291
[N:1](=[c:2]1/[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[n:6][o:7]1)\[H:8]>>[N-:1]([C+:2]([C:3](=[C:4]([C+:5]=[N:6][H:11])[H:10])[H:9])[O-:7])[H:8],61.12410996293261
[O:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[C:2](=[C:3]=[C:4]=[C:5]=[O:6])([H:8])[H:9].[O:1]([H:7])[H:10],53.7625576616925
[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[C:3](=[O:4])([C:5]#[N:6])[H:11].[N:1]([C:2]([H:8])([H:9])[H:10])([H:7])[H:12],75.6901280163747
[C:1]([C:2](=[C:3])[C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],8.999540139789097
[C:1]([C:4]#[C:5][C:6]([H:12])([H:13])[H:14])([H:7])([H:8])[H:9].[O:2]=[C:3]([H:10])[H:11]>>[C:1]([O:2][C:3]([C:4]#[C:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],85.14544067461671
[N:1]([c:2]1[c:3]([H:9])[o:4][n:5][n:6]1)([H:7])[H:8]>>[N:1]([C+:2]=[C:3]([O-:4])[H:9])([H:7])[H:8].[N:5]#[N:6],5.73776533297171
[C:1]([c:2]1[c:3]([H:11])[n:4]([H:12])[c:5]([O:6][H:13])[n:7]1)([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]=[N:4][H:12])[H:11])([H:8])([H:9])[H:10].[C:5]([O:6][H:13])#[N:7],110.307561098204
[N:1]([C:2](=[O:3])[C:4]([O:5][H:10])([H:8])[H:9])([H:6])[H:7]>>[C:4]([O:5][H:10])([H:7])([H:8])[H:9].[N:1](=[C:2]=[O:3])[H:6],78.21381634678708
[C:1]([C:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([H:6])([H:7])([H:8])[H:11].[C:2](=[C:3]([C:4]([O:5][H:15])([H:13])[H:14])[H:12])([H:9])[H:10],91.99427616028
